US04046889
The benzyloxycarbonyl-L-proline thus obtained (180 g.) is dissolved in a mixture of dichloromethane (300 ml.), liquid isobutylene (800 ml.) and concentrated sulfuric acid (7.2 ml.). The solution is shaken in a pressure bottle for 72 hours. The pressure is released, the isobutylene is allowed to evaporate and the solution is washed with 5% sodium carbonate, water, dried over magnesium sulfate and concentrated to dryness in vacuo, to obtain benzyloxy-carbonyl-L-proline tert.butyl ester, yield 205 g.

reactant | benzyloxycarbonyl-L-proline | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)O)CCC1 | C13H15NO4
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | isobutylene | 800 ml | CC(C)=C | C4H8
solvent | sulfuric acid | 7.2 ml | S(O)(O)(=O)=O | H2O4S
product | benzyloxy-carbonyl-L-proline tert.butyl ester | C(C)(C)(C)OC([C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1)=O | C17H23NO4
